US07157490B2
Step A: N′-(5-Bromopyridin-2-yl)-N,N-dimethylimidoformamide
To a stirred solution of 5-bromo-2-aminopyridine (3.0 g, 17.3 mmol) in N,N-dimethylformamide (6 mL) was added N,N-dimethylformamide dimethyl acetal (5.37 g, 45.0 mmol). The reaction mixture was heated to 130° C. overnight. After cooling to room temperature, the volatiles were removed under reduced pressure to afford the desired product as a brown oil. LC/MS 227.8 (M+1)

reactant | 5-bromo-2-aminopyridine | 17.3 mmol, 3.0 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | N,N-dimethylformamide dimethyl acetal | 45.0 mmol, 5.37 g | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N′-(5-Bromopyridin-2-yl)-N,N-dimethylimidoformamide | BrC=1C=CC(=NC1)N=CN(C)C | C8H10BrN3
